US07279494B2
III. benzyl 4-[(1E)-3-hydroxyprop-1-enyl]phenylcarbamate
A THF solution of LiAlH4 (6.75 mL of a 1.0 M solution, 6.75 mmol) was added to a cooled (−78° C.) solution of methyl (2E)-3-(4-{[(benzyloxy)carbonyl]amino}phenyl)acrylate (2.1 g, 6.75 mmol) in TBF (34 mL). The solution was allowed to warm slowly to −20° C. and maintained at that temperature for 2 hours. The reaction mixture was quenched by slow addition of saturated NH4Cl and then treated with dilute citric acid. The resulting solution was stirred for 15 minutes and then extracted with three portions of ethyl acetate. The combined organic phases were washed with H2O, brine and dried (MgSO4), filtered and concentrated to give an oil. The crude product was purified by column chromatography (20-50% ethyl acetate-hexane) to provide the title compound as a yellow solid.

reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl (2E)-3-(4-{[(benzyloxy)carbonyl]amino}phenyl)acrylate | 6.75 mmol, 2.1 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)/C=C/C(=O)OC | C18H17NO4
solvent | THF | C1CCOC1 | C4H8O
product | benzyl 4-[(1E)-3-hydroxyprop-1-enyl]phenylcarbamate | OC/C=C/C1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C17H17NO3
